US04013708
Analogously to the process described in Example 2, using 9.7 g of 4-[p-(1-cycloheptenyl)-phenoxy]-butyric acid ethyl ester as the starting material gives 4-[p-(1-cycloheptenyl)-phenoxy]-butyric acid of melting point 87° -88° C (from ethanol-water).

reactant | 4-[p-(1-cycloheptenyl)-phenoxy]-butyric acid ethyl ester | 9.7 g | C(C)OC(CCCOC1=CC=C(C=C1)C1=CCCCCC1)=O | C19H26O3
solvent | ethanol water | C(C)O.O
product | 4-[p-(1-cycloheptenyl)-phenoxy]-butyric acid | C1(=CCCCCC1)C1=CC=C(OCCCC(=O)O)C=C1 | C17H22O3
